US06197769B1
a) 2-methylpropyl-1-isopropyl-1H-3-indazolecarboxylate
To a solution of 2-methylpropyl-1H-3-indazolecarboxylate (50 g; 0.24 moles) in 1,2-dimethoxy-ethane (300 ml) a solution of isopropyl bromide (27.5 ml; 0.29 moles) in 1,2-dimethoxy-ethane (100 ml) and KOH (13.5 g; 0.24 moles) was added and the mixture was heated under reflux for 8 hours. After removal of the solvent, the residue was dissolved in toluene (300 ml), the thus obtained solution was washed with 1N NaOH (100 ml), H2O (2×100 ml) and then dried and concentrated in vacuum. The residue was purified from the isomer 2-methylpropyl-2-isopropyl-2H-3-indazolecarboxylate via flash chromatography (eluent, hexane:ethyl acetate=95:5) to give the title compound (23 g) as an oil.

reactant | 2-methylpropyl-1H-3-indazolecarboxylate | 0.24 moles, 50 g | CC(COC(=O)C1=NNC2=CC=CC=C12)C | C12H14N2O2
reactant | isopropyl bromide | 0.29 moles, 27.5 ml | C(C)(C)Br | C3H7Br
reactant | KOH | 0.24 moles, 13.5 g | [OH-].[K+]
solvent | 1,2-dimethoxy-ethane | 300 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxy-ethane | 100 ml | COCCOC | C4H10O2
product | 2-methylpropyl-1-isopropyl-1H-3-indazolecarboxylate | 23 g | CC(COC(=O)C1=NN(C2=CC=CC=C12)C(C)C)C | C15H20N2O2
